US05508299
trans-6-(4-Tolyl)-cyclohex-3-ene-1-carboxylic acid
275 g (1.695 mol) of 3-(4-toluoyl)acrylic acid (commercially available from Aldrich) is reacted according to a known process [cf.: Eur. J. Med. Chem. 11, 493 (1976)]at about 200° C. and about 20 bar for 22 h with 580 ml of 1,3-butadiene (measured in condensed form) in 480 ml of toluene with the addition of 3 g of hydroquinone. The crude mixture is diluted with toluene and extracted with 0.5M aqueous sodium hydroxide solution. The aqueous phases are then acidified with 1M hydrochloric acid and extracted with ether. The ethereal solutions are dried with sodium sulphate, evaporated and redissolved in toluene. After boiling with 5 g of active carbon for 15 minutes, the mixture is filtered off hot with suction and the solvent is evaporated down to about 120-160 ml; at 0°-4° C. 124 g (573 mmol) of product crystallise out. The filtrate is concentrated somewhat further and cooled again for recrystallisation. On repeating this process altogether a further 42 g (194 mmol) of product are obtained.

reactant | 3-(4-toluoyl)acrylic acid | 1.695 mol, 275 g | C1(=CC=C(C=C1)C(=O)C=CC(=O)O)C | C11H10O3
reactant | 1,3-butadiene | 580 ml | C=CC=C | C4H6
reactant | hydroquinone | 3 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | toluene | 480 ml | C1(=CC=CC=C1)C | C7H8
product | trans-6-(4-Tolyl)-cyclohex-3-ene-1-carboxylic acid | C1(=CC=C(C=C1)[C@@H]1CC=CC[C@H]1C(=O)O)C | C14H16O2
